US05550125
3.5. (±)-3-(2-Chloroethyl)-6-methoxy-4-[3-(trifluoromethyl)benzoyl]-3,4-dihydro-2H-1,4-benzoxazine.
To 14.74 g (0.039 mol) of (±)-6-methoxy-4-[3-(trifluoromethyl)benzoyl]-3,4-dihydro-2H-1,4-benzoxazine-3-ethanol dissolved in 165 ml of dichloromethane are added 14 ml (0.19 mol) of thionyl chloride and the mixture is stirred at room temperature for 5 h.

reactant | (±)-6-methoxy-4-[3-(trifluoromethyl)benzoyl]-3,4-dihydro-2H-1,4-benzoxazine-3-ethanol | 0.039 mol, 14.74 g | COC=1C=CC2=C(N(C(CO2)CCO)C(C2=CC(=CC=C2)C(F)(F)F)=O)C1 | C19H18F3NO4
reactant | thionyl chloride | 0.19 mol, 14 ml | S(=O)(Cl)Cl | Cl2OS
solvent | dichloromethane | 165 ml | ClCCl | CH2Cl2
product | (±)-3-(2-Chloroethyl)-6-methoxy-4-[3-(trifluoromethyl)benzoyl]-3,4-dihydro-2H-1,4-benzoxazine | ClCCC1COC2=C(N1C(C1=CC(=CC=C1)C(F)(F)F)=O)C=C(C=C2)OC | C19H17ClF3NO3
